US05143911
Diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(E)-3-hydroxypropen- 1-yl]-3-cephem-4-carboxylate (IIIa)
To a mixture of diphenylmethyl 7-[2-(2-tritylaminothia-zol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-3-chloropropen-1-yl]-3-cephem-4-carboxylate (IIa) (715 mg, 0.825 mmol) in DMSO (9 ml) and water (2.5 ml) was added silver nitrate (700 mg) under cooling and the mixture was stirred for 6 hours at room temperature. The mixture was poured into water (50 ml) and extracted with CHCl3 (300 ml). The organic phase was washed with water and concentrated under reduced pressure. The residue was chromatographed on a column of silica gel (Merck kieselgel 60, 20 g) by successively eluting with 0.5% MeOH/CHCl3, 1% MeOH/CHCl3 and 3% MeOH/CHCl3. The eluate was monitored by TLC and the fractions containing the desired product were combined. Evaporation under reduced pressure gave 452 mg (65% yield) of the title product as an amorphous powder.

reactant | diphenylmethyl 7-[2-(2-tritylaminothia-zol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-3-chloropropen-1-yl]-3-cephem-4-carboxylate | 0.825 mmol, 715 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C48H40ClN5O5S2
reactant | DMSO | 9 ml | CS(=O)C | C2H6OS
solvent | water | 2.5 ml | O | H2O
catalyst | silver nitrate | 700 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 50 ml | O | H2O
product | Diphenylmethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(E)-3-hydroxypropen- 1-yl]-3-cephem-4-carboxylate | 452 mg, 65% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C48H41N5O6S2
